* e:\ic_sn54h87\ic_sn54h87.cir

.include SN54H87.sub
x1 net-_u1-pad2_ net-_u2-pad2_ net-_u3-pad2_ net-_u4-pad2_ net-_u5-pad2_ net-_u6-pad2_ net-_u9-pad1_ net-_u10-pad1_ net-_u8-pad1_ net-_u7-pad1_ ? ? ? ? SN54H87
* u1  b net-_u1-pad2_ adc_bridge_1
* u2  c net-_u2-pad2_ adc_bridge_1
* u3  a1 net-_u3-pad2_ adc_bridge_1
* u4  a2 net-_u4-pad2_ adc_bridge_1
* u5  a3 net-_u5-pad2_ adc_bridge_1
* u6  a4 net-_u6-pad2_ adc_bridge_1
* u7  net-_u7-pad1_ y1 dac_bridge_1
* u8  net-_u8-pad1_ y2 dac_bridge_1
* u9  net-_u9-pad1_ y3 dac_bridge_1
* u10  net-_u10-pad1_ y4 dac_bridge_1
* u11  y1 plot_v1
* u12  y2 plot_v1
* u13  y3 plot_v1
* u14  y4 plot_v1
v1  b gnd pulse(0 5 0.01n 0.01n 0.01n 10m 20m)
v2  c gnd pulse(0 5 0.01n 0.01n 0.01n 5m 10m)
v3  a1 gnd pulse(0 5 0.01n 0.01n 0.01n 5m 10m)
v4  a2 gnd pulse(0 5 0.01n 0.01n 0.01n 10m 20m)
v5  a3 gnd pulse(0 5 0.01n 0.01n 0.01n 15m 30m)
v6  a4 gnd pulse(0 5 0.01n 0.01n 0.01n 20m 40m)
a1 [b ] [net-_u1-pad2_ ] u1
a2 [c ] [net-_u2-pad2_ ] u2
a3 [a1 ] [net-_u3-pad2_ ] u3
a4 [a2 ] [net-_u4-pad2_ ] u4
a5 [a3 ] [net-_u5-pad2_ ] u5
a6 [a4 ] [net-_u6-pad2_ ] u6
a7 [net-_u7-pad1_ ] [y1 ] u7
a8 [net-_u8-pad1_ ] [y2 ] u8
a9 [net-_u9-pad1_ ] [y3 ] u9
a10 [net-_u10-pad1_ ] [y4 ] u10
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u1 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u6 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u8 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u9 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u10 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-06 40e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set xbrushwidth=3
plot v(y1) v(y2)+20 v(y3)+30 v(y4)+40
plot v(B) v(C)+20 v(A1)+30 v(A2)+40 v(A3)+50 v(A4)+60
.endc
.end
