* Subcircuit LH0004
.subckt LH0004 net-_q1-pad1_ net-_q1-pad2_ net-_q10-pad1_ net-_q4-pad2_ net-_q4-pad1_ net-_q2-pad1_ net-_r1-pad2_ net-_q10-pad3_ net-_q2-pad3_ net-_q10-pad2_ 
* c:\fossee\esim\library\subcircuitlibrary\lh0004\lh0004.cir
.include NPN.lib
.include PNP.lib
q5 net-_q5-pad1_ net-_q4-pad1_ net-_q5-pad3_ Q2N2222
q8 net-_q10-pad2_ net-_q1-pad1_ net-_q5-pad3_ Q2N2222
q1 net-_q1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2907A
q4 net-_q4-pad1_ net-_q4-pad2_ net-_q1-pad3_ Q2N2907A
r2  net-_q1-pad1_ net-_q10-pad1_ 300k
r4  net-_q4-pad1_ net-_q10-pad1_ 300k
r6  net-_q5-pad3_ net-_q10-pad1_ 50k
q3 net-_q1-pad3_ net-_q2-pad1_ net-_q2-pad2_ Q2N2907A
q2 net-_q2-pad1_ net-_q2-pad2_ net-_q2-pad3_ Q2N2907A
r3  net-_q2-pad3_ net-_q2-pad2_ 40k
r1  net-_q2-pad1_ net-_r1-pad2_ 600k
q6 net-_q5-pad1_ net-_q5-pad1_ net-_q6-pad3_ Q2N2907A
q7 net-_q10-pad2_ net-_q5-pad1_ net-_q7-pad3_ Q2N2907A
r5  net-_q2-pad3_ net-_q6-pad3_ 50k
r7  net-_q2-pad3_ net-_q7-pad3_ 50k
q9 net-_q2-pad3_ net-_q10-pad2_ net-_q10-pad3_ Q2N2222
q10 net-_q10-pad1_ net-_q10-pad2_ net-_q10-pad3_ Q2N2907A
* Control Statements

.ends LH0004