* Subcircuit LM358B
.subckt LM358B net-_i5-pad1_ net-_q1-pad2_ net-_q6-pad2_ net-_i10-pad2_ net-_q19-pad2_ net-_q14-pad2_ net-_i10-pad1_ net-_i1-pad1_ 
.title kicad schematic
.include NPN.lib
.include PNP.lib
q4 net-_c1-pad2_ net-_q2-pad1_ net-_i10-pad2_ Q2N2222
q3 net-_q2-pad1_ net-_q2-pad1_ net-_i10-pad2_ Q2N2222
c1 net-_c1-pad1_ net-_c1-pad2_ 10pf
i1 net-_i1-pad1_ net-_i1-pad2_ 6u
q2 net-_q2-pad1_ net-_q1-pad3_ net-_i1-pad2_ Q2N2907A
q5 net-_c1-pad2_ net-_q5-pad2_ net-_i1-pad2_ Q2N2907A
q6 net-_i10-pad2_ net-_q6-pad2_ net-_q5-pad2_ Q2N2907A
q1 net-_i10-pad2_ net-_q1-pad2_ net-_q1-pad3_ Q2N2907A
q8 net-_i1-pad1_ net-_i2-pad2_ net-_i3-pad1_ Q2N2222
q9 net-_c1-pad1_ net-_i3-pad1_ net-_i10-pad2_ Q2N2222
q7 net-_i10-pad2_ net-_c1-pad2_ net-_i2-pad2_ Q2N2907A
i5 net-_i5-pad1_ net-_i10-pad2_ 50u
i3 net-_i3-pad1_ net-_i10-pad2_ 50u
i2 net-_i1-pad1_ net-_i2-pad2_ 4u
q11 net-_i1-pad1_ net-_c1-pad1_ net-_q11-pad3_ Q2N2222
i4 net-_i1-pad1_ net-_c1-pad1_ 100u
q10 net-_c1-pad1_ net-_q10-pad2_ net-_i5-pad1_ Q2N2222
i9 net-_i1-pad1_ net-_c2-pad1_ 100u
r2 net-_i10-pad1_ net-_q23-pad2_ 2
q25 net-_i1-pad1_ net-_q24-pad3_ net-_q23-pad2_ Q2N2222
q24 net-_i1-pad1_ net-_c2-pad1_ net-_q24-pad3_ Q2N2222
q23 net-_c2-pad1_ net-_q23-pad2_ net-_i10-pad1_ Q2N2222
i7 net-_i1-pad1_ net-_i7-pad2_ 4u
q20 net-_i10-pad2_ net-_c2-pad2_ net-_i7-pad2_ Q2N2907A
i6 net-_i1-pad1_ net-_i6-pad2_ 6u
c2 net-_c2-pad1_ net-_c2-pad2_ 10pf
q18 net-_c2-pad2_ net-_q18-pad2_ net-_i6-pad2_ Q2N2907A
q15 net-_q15-pad1_ net-_q14-pad3_ net-_i6-pad2_ Q2N2907A
q21 net-_i1-pad1_ net-_i7-pad2_ net-_i8-pad1_ Q2N2222
i10 net-_i10-pad1_ net-_i10-pad2_ 50u
q22 net-_c2-pad1_ net-_i8-pad1_ net-_i10-pad2_ Q2N2222
i8 net-_i8-pad1_ net-_i10-pad2_ 50u
q26 net-_i10-pad2_ net-_c2-pad1_ net-_i10-pad1_ Q2N2907A
q16 net-_q15-pad1_ net-_q15-pad1_ net-_i10-pad2_ Q2N2222
q19 net-_i10-pad2_ net-_q19-pad2_ net-_q18-pad2_ Q2N2907A
q17 net-_c2-pad2_ net-_q15-pad1_ net-_i10-pad2_ Q2N2222
q14 net-_i10-pad2_ net-_q14-pad2_ net-_q14-pad3_ Q2N2907A
q13 net-_i10-pad2_ net-_c1-pad1_ net-_i5-pad1_ Q2N2907A
r1 net-_i5-pad1_ net-_q10-pad2_ 2
q12 net-_i1-pad1_ net-_q11-pad3_ net-_q10-pad2_ Q2N2222
* Control Statements

.ends LM358B