.title kicad schematic

.include PNP.lib
.include D.lib
.include NPN.lib
q35 net-_c2-pad2_ net-_q31-pad1_ net-_q33-pad3_ Q2N2907A
r20 net-_q30-pad1_ net-_r19-pad1_ 19.5k
q30 net-_q30-pad1_ net-_q30-pad1_ net-_q11-pad3_ Q2N2222
q31 net-_q31-pad1_ net-_q30-pad1_ net-_q31-pad3_ Q2N2222
q34 net-_c2-pad2_ net-_q34-pad2_ net-_q34-pad3_ Q2N2222
r22 net-_q11-pad3_ net-_q34-pad3_ 1k
r23 net-_q11-pad3_ net-_q34-pad2_ 50k
q37 net-_q12-pad3_ net-_q37-pad2_ net-_q34-pad2_ Q2N2222
q39 net-_q37-pad2_ net-_q34-pad2_ net-_q39-pad3_ Q2N2222
r21 net-_q11-pad3_ net-_q31-pad3_ 5k
r24 net-_q11-pad3_ net-_q39-pad3_ 1k
r15 net-_q11-pad3_ net-_q26-pad3_ 50
q28 net-_c2-pad2_ net-_q26-pad3_ net-_q11-pad3_ Q2N2222
r18 net-_q11-pad3_ net-_q26-pad2_ 50k
* u1 net-_d3-pad1_ net-_q33-pad2_ net-_q40-pad2_ net-_q11-pad3_ net-_q1-pad2_ net-_q8-pad2_ net-_d2-pad1_ net-_q12-pad3_ port
q26 net-_d4-pad2_ net-_q26-pad2_ net-_q26-pad3_ Q2N2222
q22 net-_q11-pad3_ net-_d4-pad2_ net-_q22-pad3_ Q2N2907A
r14 net-_q22-pad3_ net-_d3-pad1_ 50
d4 net-_d3-pad2_ net-_d4-pad2_ 1N4148
d3 net-_d3-pad1_ net-_d3-pad2_ 1N4148
q21 net-_q12-pad3_ net-_c2-pad1_ net-_q21-pad3_ Q2N2222
r13 net-_d3-pad1_ net-_q21-pad3_ 25
q24 net-_c2-pad1_ net-_q24-pad2_ net-_q12-pad3_ Q2N2907A
q23 net-_c2-pad1_ net-_q21-pad3_ net-_d3-pad1_ Q2N2222
q25 net-_c2-pad1_ net-_q25-pad2_ net-_d4-pad2_ Q2N2222
q27 net-_d4-pad2_ net-_c2-pad2_ net-_q26-pad2_ Q2N2222
r17 net-_q25-pad2_ net-_d4-pad2_ 7.5k
r16 net-_q25-pad2_ net-_c2-pad1_ 4.5k
c2 net-_c2-pad1_ net-_c2-pad2_ 30p
q32 net-_q31-pad1_ net-_q32-pad2_ net-_q12-pad3_ Q2N2907A
r19 net-_r19-pad1_ net-_q24-pad2_ 19.5k
q33 net-_q32-pad2_ net-_q33-pad2_ net-_q33-pad3_ Q2N2222
q29 net-_q24-pad2_ net-_q24-pad2_ net-_q12-pad3_ Q2N2907A
q36 net-_q32-pad2_ net-_q32-pad2_ net-_q12-pad3_ Q2N2907A
q40 net-_q32-pad2_ net-_q40-pad2_ net-_q38-pad3_ Q2N2222
q38 net-_q37-pad2_ net-_q31-pad1_ net-_q38-pad3_ Q2N2907A
q15 net-_c1-pad1_ net-_q12-pad1_ net-_q12-pad3_ Q2N2907A
q18 net-_c1-pad1_ net-_q18-pad2_ net-_d2-pad1_ Q2N2222
q16 net-_c1-pad1_ net-_q16-pad2_ net-_d1-pad2_ Q2N2222
q19 net-_q12-pad3_ net-_c1-pad1_ net-_q18-pad2_ Q2N2222
r11 net-_d2-pad1_ net-_q18-pad2_ 25
r9 net-_q16-pad2_ net-_d1-pad2_ 7.5k
r8 net-_q16-pad2_ net-_c1-pad1_ 4.5k
q12 net-_q12-pad1_ net-_q12-pad1_ net-_q12-pad3_ Q2N2907A
q9 net-_q10-pad1_ net-_q1-pad1_ net-_q12-pad3_ Q2N2907A
c1 net-_c1-pad1_ net-_c1-pad2_ 30p
r6 net-_q10-pad2_ net-_r5-pad1_ 19.5k
r5 net-_r5-pad1_ net-_q12-pad1_ 19.5k
q14 net-_d1-pad2_ net-_c1-pad2_ net-_q14-pad3_ Q2N2222
q17 net-_d1-pad2_ net-_q14-pad3_ net-_q13-pad2_ Q2N2222
r10 net-_q11-pad3_ net-_q13-pad2_ 50
r7 net-_q11-pad3_ net-_q14-pad3_ 50k
q13 net-_c1-pad2_ net-_q13-pad2_ net-_q11-pad3_ Q2N2222
q5 net-_q1-pad1_ net-_q1-pad1_ net-_q12-pad3_ Q2N2907A
q6 net-_c1-pad2_ net-_q10-pad1_ net-_q6-pad3_ Q2N2907A
q8 net-_q1-pad1_ net-_q8-pad2_ net-_q6-pad3_ Q2N2222
q3 net-_q2-pad1_ net-_q10-pad1_ net-_q1-pad3_ Q2N2907A
q1 net-_q1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
r1 net-_q11-pad3_ net-_q2-pad3_ 1k
q4 net-_q12-pad3_ net-_q2-pad1_ net-_q2-pad2_ Q2N2222
q2 net-_q2-pad1_ net-_q2-pad2_ net-_q2-pad3_ Q2N2222
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
q20 net-_q11-pad3_ net-_d1-pad2_ net-_q20-pad3_ Q2N2907A
d2 net-_d2-pad1_ net-_d1-pad1_ 1N4148
r12 net-_q20-pad3_ net-_d2-pad1_ 50
q7 net-_c1-pad2_ net-_q2-pad2_ net-_q7-pad3_ Q2N2222
r4 net-_q11-pad3_ net-_q10-pad3_ 5k
r2 net-_q11-pad3_ net-_q2-pad2_ 50k
r3 net-_q11-pad3_ net-_q7-pad3_ 1k
q10 net-_q10-pad1_ net-_q10-pad2_ net-_q10-pad3_ Q2N2222
q11 net-_q10-pad2_ net-_q10-pad2_ net-_q11-pad3_ Q2N2222
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
