.title kicad schematic

.include LM1558.sub
r1 gnd net-_r1-pad2_ 1meg
vv1 vin gnd sin(2.5 1.0 1k)
v3 gnd net-_x1-pad4_  dc -5
r2 gnd net-_r2-pad2_ 1meg
r3 gnd net-_r3-pad2_ 1meg
x1 vout vout vin net-_x1-pad4_ net-_r1-pad2_ net-_r2-pad2_ net-_r3-pad2_ net-_x1-pad8_ LM1558
v2 net-_x1-pad8_ gnd  dc 5
.tran 1e-06 5e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
