.title kicad schematic

.include LM442.sub
x1 vout vout vin gnd net-_r1-pad2_ net-_r2-pad2_ net-_r3-pad2_ net-_x1-pad8_ LM442
vv1 vin gnd sin(2.5 1.0 1k)
r3 gnd net-_r3-pad2_ 1meg
r2 gnd net-_r2-pad2_ 1meg
v2 net-_x1-pad8_ gnd  dc 5
r1 gnd net-_r1-pad2_ 1meg
.tran 1e-06 5e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
